US06797718B2
Under a nitrogen atmosphere, isobutyryl chloride (330 μL, 3.15 mmol) was added to a solution of 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine (0.757 g, 2.875 mmol) in chloroform (11 mL) and triethylamine (520 μL, 3.78 mmol). The reaction mixture was stirred at ambient temperature for about 3 hours; then it was diluted with chloroform (20 mL) and washed with saturated sodium bicarbonate solution. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography (10 g of silica gel eluting with 2% methanol in chloroform containing 0.5% triethylamine) to provide 0.3486 g of N-{2-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}-2-methylpropanamide as a solid, m.p. 179.5-182° C.

reactant | isobutyryl chloride | 3.15 mmol, 330 μL | C(C(C)C)(=O)Cl | C4H7ClO
reactant | 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 2.875 mmol, 0.757 g | NCCOCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C13H21N5O
reactant | triethylamine | 3.78 mmol, 520 μL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 11 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{2-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}-2-methylpropanamide | 0.3486 g | NC1=NC(=C(C2=C1N=C(N2CCOCCNC(C(C)C)=O)C)C)C | C17H27N5O2
